2174-09-27 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Neuro consulted: believe
convulsive activity
 similar to episodes of
   anxiety attacks at home vs. Ativan withdrawal.  Recommended re-starting
   home Ativan and Gabapentin.
   -CTA head/neck negative for acute process, significant for b/l carotid
   artery stenosis
   Allergies:
   Lisinopril
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-9-26**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-27**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 80 (67 - 83) bpm
   BP: 119/44(63) {91/34(53) - 148/71(77)} mmHg
   RR: 27 (17 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    526 mL
                                                                     65 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                     46 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    200 mL
   Urine:
                                                                  2,690 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,164 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   GENERAL: Alert, oriented to time but not place, NAD
   HEENT:  JVP unable to be assessed [**1-17**] pt physiology
   CV: RRR, Nl S1+S2, GIII systolic murmur at RUSB radiating throughout
   precordium
   Pulm: Decreased breath sounds at left base, coarse rales at RLL.
   Abd: S/NT/ND
   Ext: Trace edema bilaterally.
   Skin: RLE bandaged. 2x2 cm ulcer with eschar. No surrounding erythema.
   Labs / Radiology
   324 K/uL
   9.1 g/dL
   165 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.4 mEq/L
   15 mg/dL
   100 mEq/L
   143 mEq/L
   28.7 %
   9.3 K/uL
        [image002.jpg]
                            [**2174-9-26**]  05:41 PM
                            [**2174-9-27**]  04:02 AM
   WBC
   9.3
   Hct
   28.7
   Plt
   324
   Cr
   0.8
   0.7
   Glucose
   174
   165
   Other labs: PT / PTT / INR:18.7/147.2/1.7, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**9-26**]
   REASON FOR EXAM: CHF and acutely tachypneic.
   Comparison is made with prior study performed a day earlier.
   There is worsening of aeration of the left lung. The only area that is
   currently aerated is the left upper lobe. Persistent elevation of the
   left hemidiaphragm. The right lung is grossly clear. Mild vascular
   congestion is stable.
   [**9-16**] CTA Head/Neck
   Preliminary Report !! WET READ !!
   No acute intracranial process. Extensive bilateral atherosclerotic
   disease including extensive atherosclerotic disease of the internal
   carotid arteries with bilateral stenosis. Pending reformations.
   Assessment and Plan
 Mr. [**Known lastname 3752**] is a [**Age over 90 **] year old gentleman wiht a PMH significant for
   CAD, COPD on 2L nc at night, PE on coumadin, mild AS (valve area
   1.2-1.9cm2), and DM 2 transferred to the CCU for unresponsiveness.
   Patient presented to the OSH for an episode of unresponsiveness and had
   a carotid doppler study which showed severe bilateral carotid stenosis.
   He was transferred to [**Hospital1 5**] for potential b/l carotid artery stenting.
   While on [**Hospital Ward Name 383**] 3 pt had episode of unresponsiveness w/ jerking motions
   which did not appear tonic-clonic.  Neurology was consulted and patient
   was transferred to CCU for further care.
   # Unresponsiveness: Neurology was consulted, and after speaking to the
   daughter, believes episode was most likely [**1-17**] anxiety attack and
   ?hyperventilation as patient reportedly has episodes of labored
   tachypnea at home.  Pt receives 0.5mg Ativan qAM at home, which he had
   not received.  Also possibly [**1-17**] Ativan withdrawal, despite small
   dose.  Also possible is LLL collapse seen on CXR leading to transient
   hypoxia in setting of bilateral carotid occlusive disease with
   supply/demand mismatch.  TIA and seizure are unlikely.  From an
   obstructive lung disease standpoint, he appears to be at baseline with
   minimal wheezing and an ABG on 2L nc with appropriate pH and
   compensatory metabolic compensation in setting of chronic CO2
   retention.
   - f/u final read of non-contrast CTH and CTA neck
   - Chest PT, mucolytics
   - Continue albuterol and ipratropium nebs.
   - Consider prednisone burst for ?COPD exacerbation
   - Now written for home Ativan qAM
   - Follow-up neurology recs
   - Continue ASA 81 mg daily
   .
   # Carotid stenosis: Patient transferred for carotid intervention, will
   discuss with attending whether pt is likely to have procedure today.
   - f/u CTA neck to assess carotid and basilar flow.
   - Continue ASA 81 and atorvastatin.
   - Continue to hold coumadin, continue heparin (more for PE than for
   carotid artery stenosis)
   .
   # Respiratory: Patient with known COPD on supplemental overnight O2,
   although this appears to be stable. Based on physical exam, admission
   CXR, and elevated BNP, he likely also has an element of volume overload
   secondary to cardiogenic pulmonary edema.  In addition, he was noted to
   have elevated filling pressures on cardiac catheterization in [**6-23**].
   Patient received lasix 40 IV this AM.  CXR following unresponsiveness
   now with LLL collapse, written for repeat CXR today.
   - Lasix prn with goal TBB -1000 cc/day. Check PM lytes.
   - f/u CXR
   - Albuterol and ipratropium nebs.
   - Chest PT and mucolytics as above.
   - ABG today for baseline, though likely will be similar to yesterdays
   ABG
   .
   # CAD: Patient with brief <1min complaint of chest pain this morning,
   no acute EKG changes, resolved spontaneously and resembles pt
s chronic
   chest/axillary pressure which he has when waking up in the mornings.
   Currently asymptomatic.  Admission ECG with new TWI, but low suspicion
   for ACS at this time.
   - Continue metoprolol, ASA, statin, imdur.
   .
   # Pump: Patient with preserved LVEF on last echo, although with signs
   of volume overload currently.
   - Continue metoprolol, lasix as above.
   .
   # Rhythmn: Sinus with 1:1 conduction.  Monitor on telemetry.
   .
   # Anemia: Unclear baseline, although patient received 1 unit PRBC at
   OSH prior to transfer for hemoglobin 10.  Patient with iron studies
   consistent with iron deficiency anemia/anemia of chronic disease.
   Guiac positive on admission but brown non-bloody stool, hct stable
   since admission.
   - Trend hct daily, transfuse for hct<21
   - Guaiac stools
   - Call PCP and assess colonoscopy history.
   .
   # Pulmonary embolism: Patient with history of PE in [**4-23**] on coumadin.
   Unclear based on review of records if there was an inciting event and
   need for continued anticoagulation.
   - Until clarified, will cover with heparin gtt for INR<2, although
   patient may not require continued anticoagulation.
   .
   # DM: Hold home Glipizide. Continue HISS and accuchecks.
   .
   FEN: NPO for now pending improvement possible procedure. Replete as
   necessary.
   Access: PIV
   PPx: Heparin gtt.
   Code: DNR/DNI confirmed on admission.  Will plan on reversing prior to
   interventions.
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-9-26**] 12:17 PM
   Prophylaxis:
   DVT: Heparin GTT
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   CCU ATTENDING  PROGRESS NOTE
   I have reviewed the comprehensive Progress Note today by Dr. [**First Name (STitle) **]. I
   concur with the history, physical, and assessment and plan as outline
   in the progress note.  The documented physical examination is
   consistent with my examination.
   History:   Per Dr. [**First Name (STitle) **]
s note.
   Physical Examination:   Per Dr. [**First Name (STitle) **]
s note.
   Medical Decision Making:   Mr. [**Known lastname 3752**] is a [**Age over 90 **] year old man who was
   transferred for evaluation of his bilateral carotid stenosis, right
   lower extremity with ulceration, and altered mental status.   There may
   have been a possible underlying seizure activity.
   His CTA shows bilateral 80% stenosis.  He has responded with diuresis
   and his pulmonary issues are improving.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2174-9-27**] 16:33 ------

2174-09-28 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2174-9-27**] 02:00 PM
 BLOOD CULTURED - At [**2174-9-27**] 02:24 PM
   CTA head/neck:
   1. Approximately 80% stenoses of the distal common carotid and proximal
   internal carotid arteries bilaterally.
   2. Mild plaque slightly narrowing the right vertebral artery origin.
   3. Mild narrowing of the cavernous and supraclinoid internal carotid
   arteries
   due to atherosclerosis.
   4. No evidence of acute intracranial abnormalities. Areas of
   supratentorial
   white matter hypodensity are nonspecific, but likely represent sequela
   of
   chronic microangiopathy, given the patient's age.
   5. Bilateral pleural effusions, left greater than right, with
   associated
   dependent atelectasis. Possible left upper lobe pneumonitis. These
   findings
   are new since [**2174-7-5**].
   5. Subluxation of the right temporomandibular joint.
   CXR:
   Left lower lobe and possibly the lingula are collapsed, progressed
   since the appearance on CT scan [**7-5**] which showed elevation of the
   left hemidiaphragm, severe left lower lobe atelectasis but no
   obstructing lesion or hilar mass. Mediastinum is shifted markedly into
   the left hemithorax. Right lung is clear.
   Allergies:
   Lisinopril
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2174-9-27**] 02:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2174-9-28**] 12:08 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2174-9-27**] 09:30 AM
   Heparin Sodium - [**2174-9-27**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-28**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 67 (63 - 88) bpm
   BP: 92/39(52) {87/36(52) - 127/64(83)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,476 mL
                                                                    253 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    876 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    170 mL
   Urine:
                                                                  1,865 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.47/58/46/41/15
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   8.9 g/dL
   188 mg/dL
   0.7 mg/dL
   41 mEq/L
   4.0 mEq/L
   20 mg/dL
   98 mEq/L
   142 mEq/L
   28.6 %
   8.1 K/uL
        [image002.jpg]
                            [**2174-9-26**]  05:41 PM
                            [**2174-9-27**]  04:02 AM
                            [**2174-9-27**]  12:07 PM
                            [**2174-9-27**]  04:46 PM
                            [**2174-9-27**]  06:17 PM
                            [**2174-9-28**]  04:04 AM
   WBC
   9.3
   8.1
   Hct
   28.7
   30.6
   28.6
   Plt
   324
   304
   Cr
   0.8
   0.7
   0.7
   0.7
   TCO2
   43
   Glucose
   174
   165
   188
   Other labs: PT / PTT / INR:16.2/102.4/1.4, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   All micro pending.
   Assessment and Plan
   Mr. [**Known lastname 3752**] is a [**Age over 90 **] year old gentleman wiht a PMH significant for
   CAD, COPD on 2L nc at night, PE on coumadin, mild AS (valve area
   1.2-1.9cm2), and DM 2 transferred to the CCU for unresponsiveness.
   Patient presented to the OSH for an episode of unresponsiveness and had
   a carotid doppler study which showed severe bilateral carotid stenosis.
   He was transferred to [**Hospital1 5**] for potential b/l carotid artery stenting.
   While on [**Hospital Ward Name 383**] 3 pt had episode of unresponsiveness w/ jerking motions
   which did not appear tonic-clonic.  Neurology was consulted and patient
   was transferred to CCU for further care.
   # Unresponsiveness: Neurology was consulted, and after speaking to the
   daughter, believes episode was most likely [**1-17**] anxiety attack and
   ?hyperventilation as patient reportedly has episodes of labored
   tachypnea at home.  Pt receives 0.5mg Ativan qAM at home, which he had
   not received.  Also possibly [**1-17**] Ativan withdrawal, despite small
   dose.  Also possible is LLL collapse seen on CXR leading to transient
   hypoxia in setting of bilateral carotid occlusive disease with
   supply/demand mismatch.  TIA and seizure are unlikely.  From an
   obstructive lung disease standpoint, he appears to be at baseline with
   minimal wheezing and an ABG on 2L NC with appropriate pH and
   compensatory metabolic compensation in setting of chronic CO2
   retention.
   - Chest PT, mucolytics
   - Continue albuterol and ipratropium nebs.
   - Continue prednisone burst and azithromycin for presumed COPD
   exacerbation as contributor
   - Now written for home Ativan qAM
   - Follow-up neurology recs
   - Continue ASA 81 mg daily
   .
   # Carotid stenosis: Patient transferred for carotid intervention, will
   discuss with attending whether pt is likely to have procedure today.
   - Continue ASA 81 and atorvastatin.
   - Continue to hold coumadin, continue heparin gtt (more for PE than for
   carotid artery stenosis)
   .
   # Respiratory: Patient with known COPD on supplemental overnight O2,
   although this appears to be stable. Based on physical exam, admission
   CXR, and elevated BNP, he likely also has an element of volume overload
   secondary to cardiogenic pulmonary edema.  In addition, he was noted to
   have elevated filling pressures on cardiac catheterization in [**6-23**].
   Patient received lasix 40 IV this AM.  CXR following unresponsiveness
   now with LLL collapse, written for repeat CXR today.
   - Lasix prn with goal TBB -1000 cc/day. Check PM lytes.
   - f/u CXR
   - Albuterol and ipratropium nebs.
   - Chest PT and mucolytics as above.
   - ABG today for baseline, though likely will be similar to yesterdays
   ABG
   .
   # CAD: Patient with brief <1min complaint of chest pain this morning,
   no acute EKG changes, resolved spontaneously and resembles pt
s chronic
   chest/axillary pressure which he has when waking up in the mornings.
   Currently asymptomatic.  Admission ECG with new TWI, but low suspicion
   for ACS at this time.
   - Continue metoprolol, ASA, statin, imdur.
   .
   # Pump: Patient with preserved LVEF on last echo, although with signs
   of volume overload currently.
   - Continue metoprolol, lasix as above.
   .
   # Rhythmn: Sinus with 1:1 conduction.  Monitor on telemetry.
   .
   # Anemia: Unclear baseline, although patient received 1 unit PRBC at
   OSH prior to transfer for hemoglobin 10.  Patient with iron studies
   consistent with anemia of chronic disease.  Guiac positive on admission
   but brown non-bloody stool, hct stable since admission.
   - Trend hct daily, transfuse for hct<21
   - Guaiac stools
   - Call PCP and assess colonoscopy history.
   .
   # Pulmonary embolism: Patient with history of PE in [**4-23**] on coumadin.
   Unclear based on review of records if there was an inciting event and
   need for continued anticoagulation. INR 1.4 today.
   - Until clarified, will cover with heparin gtt for INR<2, although
   patient may not require continued anticoagulation.
   .
   # DM: Hold home Glipizide. Continue HISS and accuchecks.
   .
   FEN: NPO for now pending possible procedure. Replete electrolytes prn.
   Access: PIV
   PPx: Heparin gtt.
   Code: DNR/DNI confirmed on admission.  Will plan on reversing prior to
   interventions.
   Dispo: ICU level of care.
   ICU Care
   Nutrition: NPO today for possible procedure
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2174-9-27**] 01:35 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-09-29 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2174-9-28**] 02:00 PM
 EKG - At [**2174-9-28**] 07:30 PM
   Pt developed SOB and substernal chest pain/pressure, waxes and wanes
   from [**3-23**].  [**Street Address(2) 9418**] depression v1, v2- . Lasix 80 mg IV followed by
   nitro 0.4 sl and 4 mg total of morphine given, Lorazepam  0.5 MP . Pt
   put out 850 cc to IV lasix, Responded to nitro and morphine and pain
   was completely resolved.  Pt currently sitting up, RR 25, o2 sat 92-95
   and sleeping.
   [**9-28**]:
   -Sensitivities still pending for Peptostreptococcus; direct extension
   to micro lab is [**Telephone/Fax (1) 9425**] (should be back today or tomorrow)
   -speech/swallow: soft solids, thin liquids, pills whole w/water
   -eeg done, per neuro
   -neuro does not recommend CEA
   -episode 8/10 chest pain, sob at ~8pm. gave nebs, 80IV lasix, nitro x2,
   morphine, ativan, EKG - ST depressions V1, V2; breathing fast but held
   O2 sats through high 80s and low 90s with increased O2 on NC. resolved
   as fell asleep after a while.
   -per dr. [**Last Name (STitle) **], foot procedure on [**9-29**]; no carotid procedure to be
   done. wants -1.5L by morning of [**9-29**] (gave 80IV lasix around 8pm on
   [**9-28**]).
   Allergies:
   Lisinopril
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2174-9-28**] 05:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2174-9-29**] 12:30 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2174-9-28**] 05:58 PM
   Furosemide (Lasix) - [**2174-9-28**] 06:57 PM
   Morphine Sulfate - [**2174-9-28**] 08:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-29**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 68 (58 - 98) bpm
   BP: 107/47(95) {78/39(38) - 125/98(103)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,602 mL
                                                                    372 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,062 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                    406 mL
   Urine:
                                                                  2,565 mL
                                                                    406 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -963 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///45/
   Physical Examination
   GEN; Sleep, but arousable and alert, and conversational in short
   phrases. NAD.
   CV: RRR, no m/r/g
   PULM: mild wheezes b/l that decreased s/p deep inspirations
   ABD: soft, nt, nd, obese
   EXTR: right leg painful to touch, ulcer bandaged at foot; both feet
   warm
   NEURO: symmetric cheek puffing, smile, smile, eyebrows raise, squish
   eyes closed versus resistance
   Labs / Radiology
   318 K/uL
   9.3 g/dL
   274
   0.9 mg/dL
   45 mEq/L
   4.0 mEq/L
   22 mg/dL
   93 mEq/L
   138 mEq/L
   29.2 %
   9.8 K/uL
        [image002.jpg]
                            [**2174-9-26**]  05:41 PM
                            [**2174-9-27**]  04:02 AM
                            [**2174-9-27**]  12:07 PM
                            [**2174-9-27**]  04:46 PM
                            [**2174-9-27**]  06:17 PM
                            [**2174-9-28**]  04:04 AM
                            [**2174-9-28**]  04:41 PM
                            [**2174-9-29**]  02:01 AM
                            [**2174-9-29**]  06:00 AM
   WBC
   9.3
   8.1
   9.8
   Hct
   28.7
   30.6
   28.6
   29.2
   29.2
   Plt
   324
   304
   318
   Cr
   0.8
   0.7
   0.7
   0.7
   0.9
   0.9
   TCO2
   43
   Glucose
   174
   165
   188
   316
   274
   Other labs: PT / PTT / INR:16.4/111.1/1.5, Ca++:8.2 mg/dL, Mg++:2.4
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 [**Age over 90 **] Male with PMH of  CAD, COPD admitted from OSH after episode of
   unresponsiveness and slurred speech. CT showed severe bilateral carotid
   stenosis, transferred here [**2174-9-25**] for potential carotid stenting.  He
   has COPD and uses 2L O2  at night; he has a HX of PE  while on coumadin
   in 5/[**2173**].  Also  PMH of mild AS and known foot ulcer.
   On [**Hospital Ward Name 383**] 3 on [**9-27**] pt had episode of unresponsiveness, and ? SZ vs TIA-
   came to CCU  for monitoring. Neuro is following and currently recs are
   for no stenting of carotids,  DR.  [**Last Name (STitle) 4235**] is considering
   revascularization for R foot ulcer that may be infected. Pt has had
   positive BC at OSH , gram positive, cultures here [**9-27**] pending, he is
   on Unasyn and azithromycin. In CCU he is being treated with Prednisone
   for COPD flare and Lasix for CHF.  He has LLL atelectasis by CXR.
   Last night at change of shift  Pt became very SOB and developed CP. He
   inadvertently pulled out his IV, and was anxious.He developed chest
   pain, and was treated with Nito SL, IV morphine, IV furosemide,  po
   lorazepam. Chest pain and SOB did
   Resolve with measures, although his respiratory staus remains tenuous
   team states they will eval and give more lasix at 0600.
   Pt diuresed quite a bit to lasix and was 1000 ML negative at
   midnight.   Pt was able to fall asleep by 0100 am and is arousable but
   sleeping all night when not stimulated. He is on high dose prednisone
   and his glucose is very high and we are treating him carefully as he is
   NPO.
   Mr. [**Known lastname 3752**] is a [**Age over 90 **] year old gentleman wiht a PMH significant for
   CAD, COPD on 2L nc at night, PE on coumadin, mild AS (valve area
   1.2-1.9cm2), and DM 2 transferred to the CCU for unresponsiveness.
   Patient presented to the OSH for an episode of unresponsiveness and had
   a carotid doppler study which showed severe bilateral carotid stenosis.
   He was transferred to [**Hospital1 5**] for potential b/l carotid artery stenting.
   While on [**Hospital Ward Name 383**] 3 pt had episode of unresponsiveness w/ jerking motions
   which did not appear tonic-clonic.  Neurology was consulted and patient
   was transferred to CCU for further care.
   # Unresponsiveness: Neurology was consulted, and after speaking to the
   daughter, believes episode was most likely [**1-17**] anxiety attack and
   ?hyperventilation as patient reportedly has episodes of labored
   tachypnea at home.  Pt receives 0.5mg Ativan qAM at home, which he had
   not received.  Also possibly [**1-17**] Ativan withdrawal, despite small
   dose.  Also possible is LLL collapse seen on CXR leading to transient
   hypoxia in setting of bilateral carotid occlusive disease with
   supply/demand mismatch.  TIA and seizure are unlikely.  From an
   obstructive lung disease standpoint, he appears to be at baseline with
   minimal wheezing and an ABG on 2L NC with appropriate pH and
   compensatory metabolic compensation in setting of chronic CO2
   retention.
   - Chest PT, mucolytics
   - Continue albuterol and ipratropium nebs.
   - Continue prednisone burst and azithromycin for presumed COPD
   exacerbation as contributor
   - Now written for home Ativan qAM
   - Follow-up neurology recs
   - EEG, per neurology
   - Continue ASA 81 mg daily
   - Follow-up with cards and neuro re; CEA, carotid stent etc.
   .
   # Carotid stenosis: Patient transferred for carotid intervention, will
   discuss with attending whether pt is likely to have procedure today.
   - Continue ASA 81 and atorvastatin.
   - Continue to hold coumadin, continue heparin gtt (more for PE than for
   carotid artery stenosis), and for ability to stop quickly if going to
   do a procedure
   .
   # Respiratory: Patient with known COPD on supplemental overnight O2,
   although this appears to be stable. Based on physical exam, admission
   CXR, and elevated BNP, he likely also has an element of volume overload
   secondary to cardiogenic pulmonary edema.  In addition, he was noted to
   have elevated filling pressures on cardiac catheterization in [**6-23**].
   Patient received lasix 40 IV this AM.  CXR following unresponsiveness
   now with LLL collapse, written for repeat CXR today.
   - Lasix prn with goal even to -500cc today.
   - Albuterol and ipratropium nebs.
   - Chest PT and mucolytics as above
   .
   # CAD: Patient with brief <1min complaint of chest pain this morning,
   no acute EKG changes, resolved spontaneously and resembles pt
s chronic
   chest/axillary pressure which he has when waking up in the mornings.
   Currently asymptomatic.  Admission ECG with new TWI, but low suspicion
   for ACS at this time.
   - Continue metoprolol, ASA, statin, imdur.
   .
   # Pump: Patient with preserved LVEF on last echo, although with signs
   of volume overload currently.
   - Continue metoprolol, lasix as above for goal even to -500cc today.
   .
   # Rhythmn: Sinus with 1:1 conduction.  Monitor on telemetry.
   .
   # Anemia: Unclear baseline, although patient received 1 unit PRBC at
   OSH prior to transfer for hemoglobin 10.  Patient with iron studies
   consistent with anemia of chronic disease.  Guiac positive on admission
   but brown non-bloody stool, hct stable since admission.
   - Trend hct daily, transfuse for hct<21
   - Guaiac stools
   - Call PCP and assess colonoscopy history.
   .
   # Pulmonary embolism: Patient with history of PE in [**4-23**] on coumadin.
   Unclear based on review of records if there was an inciting event and
   need for continued anticoagulation. INR 1.4 today.
   - Until clarified, will cover with heparin gtt for INR<2, although
   patient may not require continued anticoagulation.
   - Hold coumadin until procedure plan clarified
   .
   # DM: Hold home Glipizide. Continue HISS and accuchecks.
   .
   # 1 bottle + peptostrepto on OSH culture
   - Call OSH for sensitivities and to further clarify micro data
   .
   FEN: NPO for now pending possible procedure . Replete electrolytes prn.
   Speech/swallow eval.
   Access: PIV
   PPx: Heparin gtt.
   Code: DNR/DNI confirmed on admission.  Will plan on reversing prior to
   interventions.
   Dispo: ICU level of care.
   ICU Care
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2174-9-27**] 01:35 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2174-09-30 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Leg pain
   [**5-25**]
   24 Hour Events:
   Right LE
 SFA ballooned, lasered, ballooned.
   During procedure, required facemask d/t desaturation; O2 requirement
   weaned; this morning, SpO2 98% on 2L NC.
   Patient reports: breathing improved. With daily typical morning
   awakening chest pressure. Leg pain tolerable.
   Hct dropped 2.5 points since yesterday; believed due to procedural
   blood loss, appropriate.
   Patient with only 1 peripheral IV.
   Allergies:
   Lisinopril
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2174-9-29**] 12:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2174-9-30**] 12:35 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-30**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 64 (56 - 75) bpm
   BP: 110/45(60) {85/35(43) - 120/60(74)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.7 kg (admission): 114.3 kg
             Total In:
                                                                  2,010 mL
                                                                    374 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  2,776 mL
                                                                    460 mL
   Urine:
                                                                  2,776 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -766 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93% on NC 2L
   ABG: 7.44/68/86/42/17 (approximately 830pm on [**9-29**]/9)
   Physical Examination
   GEN: NAD, resting comfortably in bed
   CV; RRR, III/VI SEM, loudest at RUSB
   PULM: CTAB, anteriorly
   ABD: soft, +bs, nt, nd
   EXTR: wiggles toes to commands b/l; right heel bandaged
   Labs / Radiology
   294 K/uL
   7.9 g/dL
   217 mg/dL
   0.8 mg/dL
   42 mEq/L
   4.2 mEq/L
   28 mg/dL
   94 mEq/L
   140 mEq/L
   25.5 %
   8.9 K/uL
        [image002.jpg]
                            [**2174-9-28**]  04:04 AM
                            [**2174-9-28**]  04:41 PM
                            [**2174-9-29**]  02:01 AM
                            [**2174-9-29**]  06:00 AM
                            [**2174-9-29**]  12:00 PM
                            [**2174-9-29**]  05:43 PM
                            [**2174-9-29**]  06:02 PM
                            [**2174-9-29**]  08:08 PM
                            [**2174-9-29**]  08:27 PM
                            [**2174-9-30**]  04:02 AM
   WBC
   8.1
   9.8
   8.5
   8.9
   Hct
   28.6
   29.2
   29.2
   24
   27
   28.1
   25.5
   Plt
   [**Telephone/Fax (3) 9443**]94
   Cr
   0.7
   0.9
   0.9
   0.7
   0.8
   TCO2
   49
   47
   48
   Glucose
   188
   316
   274
   [**Telephone/Fax (3) 9444**]
   Other labs: PT / PTT / INR:14.6/27.5/1.3, Differential-Neuts:88.7 %,
   Lymph:7.1 %, Mono:4.1 %, Eos:0.0 %, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL
   Bld cx
s pending.
   Assessment and Plan
   Mr. [**Known lastname 3752**] is a [**Age over 90 **] year old gentleman wiht a PMH significant for
   CAD, COPD on 2L nc at night, PE on coumadin, mild AS (valve area
   1.2-1.9cm2), and DM 2 transferred to the CCU for unresponsiveness.
   Patient presented to the OSH for an episode of unresponsiveness and had
   a carotid doppler study which showed severe bilateral carotid stenosis.
   He was transferred to [**Hospital1 5**] for potential b/l carotid artery stenting.
   While on [**Hospital Ward Name 383**] 3 pt had episode of unresponsiveness w/ jerking motions
   which did not appear tonic-clonic.  Neurology was consulted and patient
   was transferred to CCU for further care. While in CCU, decision was
   made not to surgically act upon carotid stenoses (based upon cardiology
   & neurology decision); patient
s right lower extremity had
   revascularization procedure (laser angioplasty) done on [**9-29**], doing
   well since then.
   # Unresponsiveness: Neurology was consulted, and after speaking to the
   daughter, believes episode was most likely [**1-17**] anxiety attack and
   ?hyperventilation as patient reportedly has episodes of labored
   tachypnea at home.  Pt receives 0.5mg Ativan qAM at home, which he had
   not received.  Also possibly [**1-17**] Ativan withdrawal, despite small
   dose.  Also possible is LLL collapse seen on CXR leading to transient
   hypoxia in setting of bilateral carotid occlusive disease with
   supply/demand mismatch.  TIA and seizure are unlikely.  From an
   obstructive lung disease standpoint, he appears to be at baseline. No
   further episodes of unresponsiveness while here in the CCU.
   - Chest PT, mucolytics
   - Continue albuterol and ipratropium nebs
   - Continue prednisone burst and azithromycin (5 days) for presumed COPD
   exacerbation as contributor
   - Continue Unasyn (but convert to PO augmentin), for 7 day course,
   started on [**9-27**]
   - Continue home Ativan qAM
   - f/u EEG results, neuro recs
   - keep SpO2 in low 90s, so as not to reduce respiratory drive and cause
   CO2 narcosis
   - Continue ASA 81 mg daily
   .
   # Carotid stenosis: Patient transferred for carotid intervention, will
   not have carotid artery stenosis stenting for now, will undergo lower
   extremity revascularization first.
   - Continue ASA 81 and atorvastatin.
   - Continue heparin gtt (more for PE than for carotid artery stenosis);
   now post-procedure, restart coumadin at home dose
   .
   # Respiratory: Patient with known COPD on supplemental overnight O2,
   although this appears to be stable. Based on physical exam, admission
   CXR, and elevated BNP, he likely also has an element of volume overload
   secondary to cardiogenic pulmonary edema.  In addition, he was noted to
   have elevated filling pressures on cardiac catheterization in [**6-23**].
   - Lasix prn with goal even to -500cc today.
   - Albuterol and ipratropium nebs.
   - Chest PT and mucolytics as above
   - Goal SpO2 in the low 90s, d/t history of COPD
   .
   # CAD: Patient with brief <1min complaint of chest pain this morning,
   no acute EKG changes, resolved spontaneously and resembles pt
s chronic
   chest/axillary pressure which he has when waking up in the mornings.
   Currently asymptomatic.  Admission ECG with new TWI, but low suspicion
   for ACS at this time. Patient continues with typical awakening chest
   pain.
   - Continue metoprolol, ASA, statin, imdur.
   .
   # Pump: Patient with preserved LVEF on last echo, although with signs
   of volume overload currently.
   - Continue metoprolol, lasix as above for goal even to -500cc today.
   .
   # Rhythmn: Sinus with 1:1 conduction.  Monitor on telemetry.
   .
   # Anemia: Unclear baseline, although patient received 1 unit PRBC at
   OSH prior to transfer for hemoglobin 10.  Patient with iron studies
   consistent with anemia of chronic disease.  Guiac positive on admission
   but brown non-bloody stool, hct stable since admission except for 2.5
   point drop since yesterday
s procedure
appropriate.
   - Trend Hct daily, transfuse for hct<21
   - Plan for outpatient follow-up of colonoscopy history d/t anemia
   .
   # Pulmonary embolism: Patient with history of PE in [**4-23**] on coumadin.
   Unclear based on review of records if there was an inciting event and
   need for continued anticoagulation. INR 1.3 today
   - Patient with PE less than 6 months ago, so must anticoagulate to goal
   INR [**1-18**] at least through [**2174-10-16**]
   - Now post-procedure, can restart coumadin at home dose, and bridge
   with heparin gtt
   .
   # DM: Hold home Glipizide. Continue HISS and accuchecks.
   .
   # 1 bottle + peptostrepto on OSH culture
   - f/u OSH sensitivities
   - treat with augmentin po (switch from IV Unasyn) for 7 day course
   total, started with day #1 on [**9-27**]/9
   .
   FEN: Diabetic, cardiac diet. Replete electrolytes prn.
   Access: 1 PIV; call IV team for hope for more access. Change IV
   antibiotics to PO antibiotics.
   PPx: Heparin gtt, restarting coumadin at home dose.
   Code: DNR/DNI confirmed on admission.  Will plan on reversing prior to
   interventions.
   ICU Care
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2174-9-27**] 01:35 PM
   22 Gauge - [**2174-9-28**] 09:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Disposition: to floor today
   ------ Protected Section ------
   CCU ATTENDING  PROGRESS NOTE
   I have reviewed the comprehensive Progress Note today by Dr. [**Last Name (STitle) **]. I
   concur with the history, physical, and assessment and plan as outline
   in the progress note.  The documented physical examination is
   consistent with my examination.
   History:   Per Dr. [**Last Name (STitle) **]
s note.
   Physical Examination:   Per Dr. [**Last Name (STitle) **]
s note.
   Medical Decision Making:   Mr. [**Known lastname 3752**] is a [**Age over 90 **] year old man who was
   transferred for evaluation of his bilateral carotid stenosis, right
   lower extremity with ulceration, and altered mental status.   There may
   have been a possible underlying seizure activity.  His CTA shows
   bilateral 80% stenosis but there was no clear indication for
   treatment.
   He underwent laser angioplasty of the right SFA yesterday
 he has one
   vessel runoff to the foot.  He remains cheerful and in no distress.
   We will plan transfer back to the [**Hospital1 **] later this PM.
   A total of 35 minutes were spent on this visit today with > 50% spend
   counseling and coordinating care.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2174-9-30**] 15:35 ------

2174-10-01 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint
   24 Hour Events:
   -prednisone taper ends today, spoke with pulm who does not recommend
   continuing home dose of prednisone given his last eosinophil count was
   improved.  Recommended slow taper.  Also dc'd acetazolamide per pulm
   recs, and started bi-pap at night.
   -fluid balance ok at 2100
   -PM crit stable
   -added long acting insulin for poorly controlled sugars.
   Allergies:
   Lisinopril
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2174-9-30**] 12:35 AM
   Azithromycin - [**2174-9-30**] 10:31 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2174-9-30**] 10:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 59 (59 - 74) bpm
   BP: 121/44(63) {90/40(55) - 121/69(75)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 111.7 kg (admission): 114.3 kg
             Total In:
                                                                  1,438 mL
                                                                     75 mL
   PO:
                                                                    890 mL
             TF:
   IVF:
                                                                    548 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    705 mL
   Urine:
                                                                  1,390 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     48 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///45/
   Physical Examination
   GEN: NAD, resting comfortably in bed
   CV; RRR, III/VI SEM, loudest at RUSB
   PULM: CTAB, anteriorly
   ABD: soft, +bs, nt, nd
   EXTR: wiggles toes to commands b/l; right heel bandaged
   Labs / Radiology
   281 K/uL
   8.3 g/dL
   210 mg/dL
   0.7 mg/dL
   45 mEq/L
   4.1 mEq/L
   26 mg/dL
   92 mEq/L
   140 mEq/L
   26.1 %
   8.7 K/uL
                            [**2174-9-29**]  02:01 AM
                            [**2174-9-29**]  06:00 AM
                            [**2174-9-29**]  12:00 PM
                            [**2174-9-29**]  05:43 PM
                            [**2174-9-29**]  06:02 PM
                            [**2174-9-29**]  08:08 PM
                            [**2174-9-29**]  08:27 PM
                            [**2174-9-30**]  04:02 AM
                            [**2174-9-30**]  05:14 PM
                            [**2174-10-1**]  02:55 AM
   WBC
   9.8
   8.5
   8.9
   8.7
   Hct
   29.2
   24
   27
   28.1
   25.5
   26.1
   26.1
   Plt
   [**Telephone/Fax (3) 9467**]81
   Cr
   0.9
   0.7
   0.8
   0.7
   TCO2
   49
   47
   48
   Glucose
   [**Telephone/Fax (2) 9468**]
   Other labs: PT / PTT / INR:15.6/84.8/1.4, Differential-Neuts:88.7 %,
   Lymph:7.1 %, Mono:4.1 %, Eos:0.0 %, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3752**] is a [**Age over 90 **] year old gentleman wiht a PMH significant for
   CAD, COPD on 2L nc at night, PE on coumadin, mild AS (valve area
   1.2-1.9cm2), and DM 2 transferred to the CCU for unresponsiveness.
   Patient presented to the OSH for an episode of unresponsiveness and had
   a carotid doppler study which showed severe bilateral carotid stenosis.
   He was transferred to [**Hospital1 5**] for potential b/l carotid artery stenting.
   While on [**Hospital Ward Name 383**] 3 pt had episode of unresponsiveness w/ jerking motions
   which did not appear tonic-clonic.  Neurology was consulted and patient
   was transferred to CCU for further care. While in CCU, decision was
   made not to surgically act upon carotid stenoses (based upon cardiology
   & neurology decision); patient
s right lower extremity had
   revascularization procedure (laser angioplasty) done on [**9-29**], doing
   well since then.
   # Unresponsiveness: Neurology was consulted, and after speaking to the
   daughter, believes episode was most likely [**1-17**] anxiety attack and
   ?hyperventilation as patient reportedly has episodes of labored
   tachypnea at home.  Pt receives 0.5mg Ativan qAM at home, which he had
   not received.  Also possibly [**1-17**] Ativan withdrawal, despite small
   dose.  Also possible is LLL collapse seen on CXR leading to transient
   hypoxia in setting of bilateral carotid occlusive disease with
   supply/demand mismatch.  TIA and seizure are unlikely.  From an
   obstructive lung disease standpoint, he appears to be at baseline. No
   further episodes of unresponsiveness while here in the CCU.
   - Chest PT, mucolytics
   - Continue albuterol and ipratropium nebs
   - Continue prednisone burst and azithromycin (5 days) for presumed COPD
   exacerbation as contributor
   - Continue Unasyn (but convert to PO augmentin), for 7 day course,
   started on [**9-27**]
   - Continue home Ativan qAM
   - f/u EEG results, neuro recs
   - keep SpO2 in low 90s, so as not to reduce respiratory drive and cause
   CO2 narcosis
   - Continue ASA 81 mg daily
   .
   # Carotid stenosis: Patient transferred for carotid intervention, will
   not have carotid artery stenosis stenting for now, will undergo lower
   extremity revascularization first.
   - Continue ASA 81 and atorvastatin.
   - Continue heparin gtt (more for PE than for carotid artery stenosis);
   now post-procedure, restart coumadin at home dose
   .
   # Respiratory: Patient with known COPD on supplemental overnight O2,
   although this appears to be stable. Based on physical exam, admission
   CXR, and elevated BNP, he likely also has an element of volume overload
   secondary to cardiogenic pulmonary edema.  In addition, he was noted to
   have elevated filling pressures on cardiac catheterization in [**6-23**].
   - Lasix prn with goal even to -500cc today.
   - Albuterol and ipratropium nebs.
   - Chest PT and mucolytics as above
   - Goal SpO2 in the low 90s, d/t history of COPD
   .
   # CAD: Patient with brief <1min complaint of chest pain this morning,
   no acute EKG changes, resolved spontaneously and resembles pt
s chronic
   chest/axillary pressure which he has when waking up in the mornings.
   Currently asymptomatic.  Admission ECG with new TWI, but low suspicion
   for ACS at this time. Patient continues with typical awakening chest
   pain.
   - Continue metoprolol, ASA, statin, imdur.
   .
   # Pump: Patient with preserved LVEF on last echo, although with signs
   of volume overload currently.
   - Continue metoprolol, lasix as above for goal even to -500cc today.
   .
   # Rhythmn: Sinus with 1:1 conduction.  Monitor on telemetry.
   .
   # Anemia: Unclear baseline, although patient received 1 unit PRBC at
   OSH prior to transfer for hemoglobin 10.  Patient with iron studies
   consistent with anemia of chronic disease.  Guiac positive on admission
   but brown non-bloody stool, hct stable since admission except for 2.5
   point drop since yesterday
s procedure
appropriate.
   - Trend Hct daily, transfuse for hct<21
   - Plan for outpatient follow-up of colonoscopy history d/t anemia
   .
   # Pulmonary embolism: Patient with history of PE in [**4-23**] on coumadin.
   Unclear based on review of records if there was an inciting event and
   need for continued anticoagulation. INR 1.3 today
   - Patient with PE less than 6 months ago, so must anticoagulate to goal
   INR [**1-18**] at least through [**2174-10-16**]
   - Now post-procedure, can restart coumadin at home dose, and bridge
   with heparin gtt
   .
   # DM: Hold home Glipizide. Continue HISS and accuchecks.
   .
   # 1 bottle + peptostrepto on OSH culture
   - f/u OSH sensitivities
   - treat with augmentin po (switch from IV Unasyn) for 7 day course
   total, started with day #1 on [**9-27**]/9
   .
   FEN: Diabetic, cardiac diet. Replete electrolytes prn.
   Access: 1 PIV; call IV team for hope for more access. Change IV
   antibiotics to PO antibiotics.
   PPx: Heparin gtt, restarting coumadin at home dose.
   Code: DNR/DNI confirmed on admission.  Will plan on reversing prior to
   interventions.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-9-27**] 01:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: